US04480112
L-aspartic acid, 13.3 parts, was added to 100 parts by volume of 2N aqueous sodium hydroxide and the resulting solution was cooled to 0°-10° C. in an ice bath. Diketene, 8.4 parts, was added and the resulting two phase mixture was stirred for 2.5 hours at 0°-10° C. The homogeneous solution was washed twice with 100 parts by volume of ether and the aqueous layer was acidified with 16.6 parts by volume of concentrated hydrochloric acid. This solution was extracted three times with 100 parts by volume of ethyl acetate, the combined extracts were dried over sodium sulfate, filtered and the solvent evaporated under vacuum at 25°-30° C. to give 2.3 parts of N-acetoacetyl-L-aspartic acid, mp 127°-129.5° C.

reactant | L-aspartic acid | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | Diketene | C=C1CC(=O)O1 | C4H4O2
product | N-acetoacetyl-L-aspartic acid | C(CC(=O)C)(=O)N[C@@H](CC(=O)O)C(=O)O | C8H11NO6
